US07488818B2
Tetrabutylphosphonium phthalamate is also prepared in the following way. A solution of tetrabutylphosphonium hydroxide (12.5 g; 40% in water) is prepared. Then phthalimide (2.7 g) is added, and the reaction solution is stirred at room temperature overnight. The water is then removed in a rotary evaporator, and the residue is taken up in toluene. The toluene is removed in a rotary evaporator, and the residue is again taken up in toluene. This procedure is repeated 4-5 times. The solvent is then removed to dryness. 1H-NMR (d6-DMSO) 0.9 (t, 12 H), 1.42 (m, 16 H), 2.18 (m, 8 H), 7.05 (b, 1 H), 7.18 (m, 1 H), 7.29 (d, 2 H), 7.74 (d, 1 H), 10.35 (b, 1 H).

reactant | Tetrabutylphosphonium phthalamate | C(C=1C(C(=O)N)=CC=CC1)(=O)[O-].C(CCC)[P+](CCCC)(CCCC)CCCC
reactant | phthalimide | 2.7 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
product | tetrabutylphosphonium hydroxide | 12.5 g, 40% | [OH-].C(CCC)[P+](CCCC)(CCCC)CCCC | InChI=1S/C16H36P.H2O/c1-5-9-13-17(14-10-6-2,15-11-7-3)16-12-8-4;/h5-16H2,1-4H3;1H2/q+1;/p-1
